US08022223B2
A 20 mL vial was charged with methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate (135.8 mg, 0.338 mmol) and THF (0.5 mL). 1M KOtBu in THF (1.184 mL, 1.184 mmol) was added and the reaction mixture was stirred at room temperature for 30 seconds. 2-(Bromomethyl)pyridine hydrobromide (85.55 mg, 0.3382 mmol) was added and the reaction mixture was stirred at room temperature for 30 minutes. Saturated aqueous ammonium chloride was added and the reaction mixture was extracted with EtOAc. The concentrated residue was purified on silica gel to afford N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-2-ylmethylthio)pyridin-2-amine dihydrochloride (98.2 mg, 60.5% yield) as a pale yellow solid after HCl salt formation. 1H NMR (d6-DMSO) δ 8.66 (dd, 1H), 8.22 (td, 1H), 8.12 (d, 1H), 7.70 (t, 1H), 7.62 (d, 1H), 7.45 (m, 2H), 7.23 (t, 1H), 7.16 (d, 1H), 7.06 (m, 2H), 6.82 (m, 1H), 4.42 (s, 2H), 2.29 (s, 3H); Mass spectrum (esi) m/z=407.2 (100) (M+H-2HCl).

reactant | methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | 0.338 mmol, 135.8 mg | CC=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C19H19N3O3S2
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
reactant | 2-(Bromomethyl)pyridine hydrobromide | 0.3382 mmol, 85.55 mg | Br.BrCC1=NC=CC=C1
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.184 mmol, 1.184 mL | C1CCOC1 | C4H8O
product | N-(4-methylthiazol-2-yl)-3-phenoxy-5-(pyridin-2-ylmethylthio)pyridin-2-amine dihydrochloride | 98.2 mg, 60.5% yield | Cl.Cl.CC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)SCC1=NC=CC=C1 | InChI=1S/C21H18N4OS2.2ClH/c1-15-13-28-21(24-15)25-20-19(26-17-8-3-2-4-9-17)11-18(12-23-20)27-14-16-7-5-6-10-22-16;;/h2-13H,14H2,1H3,(H,23,24,25);2*1H
